US07396958B2
6-chloro-2-methylbenzo[d][1,3]oxazin-4-one
To 15 g of 2-amino-5-chlorobenzoic acid are added 80 ml of acetic anhydride, and the mixture is refluxed for 2 hours. The reaction medium is concentrated and the residue is recrystallized from ethanol. After filtering off and rinsing the precipitate, 10.25 g of the expected product are obtained.

reactant | 2-amino-5-chlorobenzoic acid | 15 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-chloro-2-methylbenzo[d][1,3]oxazin-4-one | ClC1=CC2=C(N=C(OC2=O)C)C=C1 | C9H6ClNO2
